US08431717B2
Palladium catalyst (1.4 g of 10% Pd/C) was suspended in the hydrochloric acid solution of 2-ethyl-2-(1H-imidazol-4-yl)indan-1,3-dione hydrochloride. The obtained suspension was poured into a hydrogenation autoclave. Hydrogen was supplied to autoclave to 3.0 bar. The reaction mixture was stirred and heated to 80-85° C. The typical hydrogenation time was 6 hours. After hydrogenation the reaction mixture was filtered to remove the catalyst. The filtrate was cooled to (−5)° C., the precipitates were separated by filtration. The obtained crude 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride was dried at 50° C. under reduced pressure. The yield was 3.7 g of a white powder.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-ethyl-2-(1H-imidazol-4-yl)indan-1,3-dione hydrochloride | Cl.C(C)C1(C(C2=CC=CC=C2C1=O)=O)C=1N=CNC1
reactant | Hydrogen | [H][H] | H2
catalyst | Palladium | 1.4 g | [Pd] | Pd
product | 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole hydrochloride | Cl.C(C)C1(CC2=CC=CC=C2C1)C1=CN=CN1 | InChI=1S/C14H16N2.ClH/c1-2-14(13-9-15-10-16-13)7-11-5-3-4-6-12(11)8-14;/h3-6,9-10H,2,7-8H2,1H3,(H,15,16);1H
